US20010053779A1
A solution comprising 5-benzyloxycarbonyl-2-(2-{3-methyl-2-[1-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)ethyl]-3H-benzoimidazol-5-ylcarbonylamino}ethoxy)benzoic acid (0.561 g, 0.90 mmol) in glacial acetic acid (2 mL) was heated under nitrogen in a water bath to 10° C., treated with hydrogen bromide in acetic acid (2 mL of a 30% solution) and allowed to warm to 20° C. and, one hour later, concentrated with a stream of nitrogen. The residue was dissolved in a small quantity of ethanol and the solution was added dropwise to stirring ether to give a pale brown precipitate. The precipitate was isolated by filtration and dried to provide 2-(2-{3-methyl-2-[4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)ethyl]-3H-benzoimidazol-5-ylcarbonylamino}ethoxy)benzoic acid hydrobromide (0.651 g); 1H-NMR (300 MHz, DMSO-d6) d ppm: 9.31 (br s, 2H), 8.63 (m, 1H), 8.24 (s, 1H), 7.79 (d, 1H, J=7.9 Hz), 7.63 (m, 2H), 7.47 (t, 1H, J=7.9 Hz), 7.21 (d, 1H, J=7.9 Hz), 7.00 (t, 1H, J=7.9 Hz), 5.21 (q, 1H, J=6.3 Hz), 4.29 (s, 2H), 4.21 (s, 2H), 3.91 (s, 3H), 3.68 (m, 2H), 3.43 (m, 2H), 2.89 (s, 2H), 1.79 (d, 3H, J=6.3 Hz).

reactant | 5-benzyloxycarbonyl-2-(2-{3-methyl-2-[1-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)ethyl]-3H-benzoimidazol-5-ylcarbonylamino}ethoxy)benzoic acid | 0.90 mmol, 0.561 g | C(C1=CC=CC=C1)OC(=O)C=1C=CC(=C(C(=O)O)C1)OCCNC(=O)C1=CC2=C(N=C(N2C)C(C)C=2NC3=C(CNCC3)N2)C=C1 | C34H34N6O6
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | benzoic acid hydrobromide | 0.651 g | Br.C(C1=CC=CC=C1)(=O)O | InChI=1S/C7H6O2.BrH/c8-7(9)6-4-2-1-3-5-6;/h1-5H,(H,8,9);1H
